US05962529
PREPARATIVE EXAMPLE STEP A: N-octyl-toluene-4-sulfonamide
A solution of toluene-4-sulfonyl chloride (5.0 g, 0.026 mol) in dry dichloromethane (150 ml) was cooled to 0° C. during the dropwise addition of n-octylamine (9.6 ml, 0.058 mol) with stirring over 4 minutes. The reaction mixture was then allowed to stir for 30 minutes before being diluted with dichloromethane (200 ml) and water (200 ml). The organic layer was separated and washed consecutively with 1 M HCl, 0.5 M Na2CO3 and brine before being dried over anhydrous Na2SO4. The solution was filtered and concentrated in vacuo to a crude solid which was purified by flash chromatography (silica gel, 11% ethyl acetate in hexane) to give the title compound as a white solid (7.0 g, 94%). This material was then used immediately in the next step.

reactant | toluene-4-sulfonyl chloride | 0.026 mol, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | n-octylamine | 0.058 mol, 9.6 ml | C(CCCCCCC)N | C8H19N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | N-octyl-toluene-4-sulfonamide | 7.0 g, 94% | C(CCCCCCC)NS(=O)(=O)C1=CC=C(C=C1)C | C15H25NO2S
